US05006540
(a) N-tert.-Butyl-N-(2-hydroxycyclohexyl)-hydrazine hydrochloride
10 g of lithium alanate are added in portions of 1 g to a solution of 38.8 g of N-nitroso-tert.-butyl-(2-hydroxycyclohexyl)amine (obtained by heating 1,2-epoxy-cyclohexane with tert.butylamine at 150° C. in an autoclave and then nitrosating the mixture with sodium nitrite/HCl) under a nitrogen atmosphere in the course of 2 days, the mixture being heated at 50° C. The residual lithium alanate is destroyed by cooling the mixture and careful dropwise addition of 50 ml of methanol and then 75 ml of water. The mixture is then filtered and the filtrate is concentrated. The residue is taken up in 100 ml of methylene chloride, the water which separates out is separated off and the organic phase is dried and concentrated again. The oil thus obtainable is dissolved in 20 ml of ethanol and 150 ml of tert.-butyl methyl ether, and the hydrazine hydrochloride is precipitated by addition of ethereal HCl. Yield: 28.5 g melting point: 145° C. (decomp.)

reactant | lithium | 10 g | [Li] | Li
reactant | N-nitroso-tert.-butyl-(2-hydroxycyclohexyl)amine | 38.8 g | N(=O)N(C1C(CCCC1)O)C(C)(C)C | C10H20N2O2
reactant | 1,2-epoxy-cyclohexane | O1C2C1CCCC2 | C6H10O
reactant | tert.butylamine | C(C)(C)(C)N | C4H11N
reactant | sodium nitrite HCl | N(=O)[O-].[Na+].Cl
product | N-tert.-Butyl-N-(2-hydroxycyclohexyl)-hydrazine hydrochloride | Cl.C(C)(C)(C)N(N)C1C(CCCC1)O | InChI=1S/C10H22N2O.ClH/c1-10(2,3)12(11)8-6-4-5-7-9(8)13;/h8-9,13H,4-7,11H2,1-3H3;1H
